Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
AV fistula aneurysm
 
Major Surgical or Invasive Procedure:
LUE AVF aneurysm s/p revision

 
History of Present Illness:
The patient has end-stage renal disease.  He presented for a 
second-stage repair on his left upper arm arteriovenous fistula 
aneurysm.

 
Past Medical History:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On 
dialysis since ___. Has LUE AVF. 
- Afib, on Coumadin
- HTN
- CHF (outpatient TTE ___ with LVEF ___ and subsequent 
recovery with EF 48% on office study ___  
- Gout
- PVD
- Hypothyrodism
- Cricopharyngeal dysphagia ___ neck fracture
- Sleep apnea not on home CPAP
- Anemia of chronic disease ___ renal dysfunction
- NIDDM, resolved with weight loss, A1C<5% in ___ 
- H/O autonomic dysfunction, remitted (no longer on midodrine 
and fludrocortisone). Persistent volume-sensitive BP regulation. 

- Urinary retention, straight caths QOD  
 
Social History:
___
Family History:
Numerous with hypertension.

 
Physical Exam:
Discharge Physical Exam:
VS: 97.5  94  110/70  20  95%ra
Gen- alert and oriented, conversant and appropriate
CV- irreg irreg, rate controlled
Pulm- easy WOB
Abd- Soft NT ND
Ext- LUE fistula +thrill +bruit, L heel ulcer dry base with no 
surrounding erythema. Minimal ___ edema
 
Pertinent Results:
___ 02:56PM   SODIUM-138 POTASSIUM-5.4* CHLORIDE-101
___ 12:29PM   GLUCOSE-76 UREA N-31* CREAT-4.2* SODIUM-136 
POTASSIUM-6.4* CHLORIDE-103 TOTAL CO2-20* ANION GAP-19
___ 12:29PM   CALCIUM-7.9* PHOSPHATE-3.3 MAGNESIUM-2.0
___ 12:29PM   WBC-8.2 RBC-2.83* HGB-8.9* HCT-30.0* MCV-106* 
MCH-31.6 MCHC-29.8* RDW-14.8
___ 12:29PM   PLT COUNT-78*
___ 10:56AM   TYPE-ART PO2-189* PCO2-47* PH-7.33* TOTAL 
CO2-26 BASE XS--1
___ 10:56AM   GLUCOSE-90 LACTATE-1.2 NA+-136 K+-5.4* 
CL--102
___ 10:56AM   HGB-9.7* calcHCT-29
___ 10:56AM   freeCa-1.14
___ 09:05AM   ___
 
Brief Hospital Course:
Mr. ___ was admitted for a scheduled repair of a left upper 
extremity AVF aneurysm. During the procedure he had an episode 
of afib with RVR, with resultant hypotension. He briefly 
required neo postop for blood pressure support in PACU. He 
quickly weaned off however was kept in house overnight given 
continued issues with afib rate control. Of note he has had many 
prior episodes of this. Overnight he remained in afib with 
intermittent rate control, with systolic BP 90-100. His midnight 
potassium was 6.4 and he was given insulin/glucose/calcium, a 
repeat was 4.2. He was taken for dialysis early in the morning 
of POD1, and at HD his rate slowed to 70's-80's with resultant 
improvement in his blood pressure. He stayed rate controlled 
throughout HD. His outpatient cardiologist Dr. ___ 
with him and given that this has been a continued problem for 
him decided to increase his home metoprolol from 150'' to 200''. 
He was given coumadin, his heel wound dressings were changed, 
and he was straight cathed x1 (which he normally does daily at 
home). He was discharged home on POD 1 after confirming his 
outpatient plan with the patient, wife, outpatient cardiologist, 
and visiting nurse who expressed understanding and agreement.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO DAILY 
2. Nephrocaps 1 CAP PO DAILY 
3. Cinacalcet 30 mg PO BID 
4. Clotrimazole Cream 1 Appl TP BID 
5. Finasteride 5 mg PO DAILY 
6. Furosemide 80 mg PO 4X/WEEK (___) 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Metoprolol Succinate XL 150 mg PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Sucralfate 1 gm PO TID 
12. Warfarin 1 mg PO DAILY16 
13. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
14. Docusate Sodium 100 mg PO BID 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. DiphenhydrAMINE 25 mg PO HS:PRN insomnia 
17. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 

 
Discharge Medications:
1. DiphenhydrAMINE 25 mg PO HS:PRN insomnia 
2. Allopurinol 50 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO 4X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Metoprolol Succinate XL 200 mg PO DAILY 
Dose changed to 200mg twice a day per Dr. ___ 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
12. Sucralfate 1 gm PO TID 
13. Cinacalcet 30 mg PO BID 
14. Clotrimazole Cream 1 Appl TP BID 
15. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
16. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
17. Warfarin 1 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p aneurysm repair
ESRD
A fib
Hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call the access clinic at ___ if you have fevers 
or chills, your left hand has any pain, is cold, has blue 
fingers, has numbness or tingling this may be a medical 
emergency and you should call right away.
Please also monitor for incisional redness, drainage or 
bleeding, arm swelling or increased pain at the access site or 
any other concerning symptoms.
You should check the left arm access daily for a thrill (buzzing 
sensation) and if this is not present, you should call the 
access clinic right away and not wait until your dialysis 
session.
The dressings may be removed on ___, and the incisions 
may be left open to air. The arm may be gently washed but do not 
submerge or soak the arm. If there is a small amount of drainage 
you may cover with a dry dressing.
Keep the arm elevated when you are sitting or laying down to 
help the swelling decease.
Do NOT allow any blood pressures or lab draws from the left arm. 
No tight or constrictive clothing or jewelry to the left arm and 
no lifting more than 10 pounds.
Continue outpatient hemodialysis per your outpatient schedule. 
Continue home medications, dietary and fluid restrictions as you 
have been instructed.
Continue home Visiting nurse services with care plan as per 
their routine dressing changes
 
Followup Instructions:
___